US06703468B1
[1] Lysine-methacrylamide [Compound Represented by Formula (5) or (6)]
Potassium hydrogencarbonate(5.51 g) was dissolved in 100 ml of distilled water, 9.13 g of lysine hydrochloride was dissolved in the solution, and 80 ml of acetone was further added to the solution. The reaction mixture was added dropwise with 5.23 g of methacryloyl chloride over about 10 minutes with vigorous stirring under ice cooling, and further vigorously stirred for about 2 hours. The reaction mixture was adjusted to pH 1-2 with concentrated hydrochloric acid, and saturated with sodium chloride. The aqueous layer was washed twice with 100 ml of ethyl acetate, and extracted 3 times with 100 ml of ethyl acetate/isopropanol=1/2. The ethyl acetate/isopropanol layers were combined, concentrated to about 50 ml under reduced pressure, added with 500 ml of isopropanol, and again concentrated to about 200 ml. The deposited sodium chloride was removed by filtration, and the filtrate was concentrated (colorless syrup, 5.53 g)

reactant | Potassium hydrogencarbonate | 5.51 g | C(O)([O-])=O.[K+]
reactant | lysine hydrochloride | 9.13 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | methacryloyl chloride | 5.23 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | hydrochloric acid | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | Lysine-methacrylamide | C(C(=C)C)(=O)N.N[C@@H](CCCCN)C(=O)O | InChI=1S/C6H14N2O2.C4H7NO/c7-4-2-1-3-5(8)6(9)10;1-3(2)4(5)6/h5H,1-4,7-8H2,(H,9,10);1H2,2H3,(H2,5,6)/t5-;/m0./s1
